* sg13g2-bandgap -- bandgap_core open-loop PVT testbench (issues #10, #22)
* Generated from sim/core-open-loop-bias/testbench/tb_core_open_loop_bias.spice.tmpl
* by sim/core-open-loop-bias/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale for every choice below is in
* sim/core-open-loop-bias/README.md; this header is a short pointer, not a
* restatement.
*
* Generated for: corner=fs temp=-40C vdd=2.97V
* DUT git sha (design/netlist/bandgap_core.spice this was copied from):
*   4832c71
* PDK: ihp-sg13g2 /tmp/pdks/ihp-open-pdk (see sim/pdk.json for the pinned release)
* OSDI models: /tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh -- see
*   sim/README.md "OSDI device models" for provenance)
*
* Since issue #22 landed the OSDI toolchain, every device below is the
* PDK's own real compact model: the three sg13_hv_pmos mirror legs
* (PSP103.6, via psp103.osdi) and both rppd resistors (r3_cmc, via
* r3_cmc.osdi) are instantiated exactly as design/netlist/bandgap_core.spice
* draws them -- same instance names, same node names, same W/L/Nx -- next to
* the three real npn13G2 bipolar legs. The ideal-current-source and ideal-R
* substitutions this testbench used before #22 are gone; the only remaining
* additions to the DUT netlist are the four measurement/bias elements
* called out below, each of which is a testbench fixture, not a device
* substitution.

.lib "/tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.lib "/tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_fs
.lib "/tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=-40 tnom=27

Vvdd vdd 0 dc 2.97
Vvss vss 0 dc 0
* bandgap_core.spice wires both rppd bulk terminals to the global substrate
* net `sub!`; this testbench ties it to vss through a 0 V source so the
* substrate leakage the r3_cmc model computes is measurable rather than
* silently shorted away.
Vsub sub! vss dc 0

* FIXTURE 1 -- open-loop mirror bias. No error amplifier exists yet (issue
* #9's scope cut), so nothing in the design drives `fb`. A diode-connected
* replica of the mirror device, carrying a 5 uA reference, sets it: the
* three DUT legs below are then real PSP103 mirrors of a real PSP103
* reference device, so their currents track W/L, temperature and the MOS
* process corner the way the silicon would -- unlike the ideal 5 uA sources
* this testbench used before #22, which pinned the leg current at exactly
* 5 uA in every corner and therefore exercised no MOS behavior at all.
* 5 uA/leg matches issue #9's own informal nominal-point check.
XM0 fb fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Ibias fb vss dc 5u

* DUT mirror legs, geometry verbatim from design/netlist/bandgap_core.spice.
* FIXTURE 2 -- each leg's drain reaches its DUT node through a 0 V source,
* used purely as an ammeter; a 0 V source is a short at DC and does not move
* the operating point.
XM1 m1d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm1 m1d sns1 dc 0
XM2 m2d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm2 m2d sns2 dc 0
XM3 m3d fb vdd vdd sg13_hv_pmos w=10u l=1u ng=1 m=1
Vm3 m3d vref dc 0

XQ1 sns1 sns1 vss vss npn13G2 Nx=1
XR2 sns2 cb2 sub! rppd w=2u l=82.7u m=1 b=0
XQ2 cb2 cb2 vss vss npn13G2 Nx=8
XR1 vref cb3 sub! rppd w=2u l=694.5u m=1 b=0
XQ3 cb3 cb3 vss vss npn13G2 Nx=1

.op
.control
pre_osdi /tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /tmp/pdks/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
run
print v(vref) v(fb) v(sns1) v(sns2) v(cb2) v(cb3) i(vm1) i(vm2) i(vm3)
.endc
.end
